US06919365B2
tert-Butyl (5-methyl-3-naphthylcarbonyl-2,4-dioxo-5-phenylimidazolidinyl)acetate (Compound 14)
5-Methyl-3-naphthylcarbonyl-5-phenylimidazolidine-2,4-dione (800 mg) was dissolved in DMF (8 mL) and tert-butyl bromoacetate (452 mg) was added. Potassium carbonate (336 mg) was further added, and the mixture was stirred at room temperature overnight. After water was added carefully to the reaction solution, ethyl acetate (200 mL) was added, followed by extraction. The resulting organic layer was washed with 1N hydrochloric acid, an aqueous saturated sodium bicarbonate solution and a saturated brine in turn, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. Further recrystallization with IPE afforded 704 mg of white crystals.

reactant | 5-Methyl-3-naphthylcarbonyl-5-phenylimidazolidine-2,4-dione | 800 mg | CC1(C(N(C(N1)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O)C1=CC=CC=C1 | C21H16N2O3
reactant | tert-butyl bromoacetate | 452 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Potassium carbonate | 336 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (5-methyl-3-naphthylcarbonyl-2,4-dioxo-5-phenylimidazolidinyl)acetate | CC1(C(N(C(N1CC(=O)OC(C)(C)C)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O)C1=CC=CC=C1 | C27H26N2O5
